US09382228B2
A solution of 1-methyl-4-(4-(4-((2-methyl-6-nitropyridin-3-yl)oxy)pyridin-2-yl)phenyl)piperazine (0.333 g, 0.821 mmol) in MeOH (20 mL) was treated with 10% Pd/C (50% wet, 0.089 g, 0.082 mmol) and hydrogenated (1 atm) overnight. The solids were removed via filtration through diatomaceous earth, washed with MeOH and the filtrate concentrated to dryness to afford 6-methyl-5-((2-(4-(4-methylpiperazin-1-yl)phenyl)pyridin-4-yl)oxy)pyridin-2-amine (247 mg, 80%). 1H NMR (400 MHz, DMSO-d6): δ 8.38 (d, J=5.7 Hz, 1H), 7.85 (d, J=8.8 Hz, 2H), 7.21-7.20 (m, 2H), 6.98 (d, J=8.8 Hz, 2H), 6.57 (dd, J=5.6, 2.4 Hz, 1H), 6.35 (d, J=8.7 Hz, 1H), 5.94 (s, 2H), 3.20 (t, J=4.7 Hz, 4H), 2.45 (s, 4H), 2.22 (s, 3H), 2.07 (s, 3H); MS (ESI) m/z: 376.2 (M+H+).

reactant | 1-methyl-4-(4-(4-((2-methyl-6-nitropyridin-3-yl)oxy)pyridin-2-yl)phenyl)piperazine | 0.821 mmol, 0.333 g | CN1CCN(CC1)C1=CC=C(C=C1)C1=NC=CC(=C1)OC=1C(=NC(=CC1)[N+](=O)[O-])C | C22H23N5O3
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Pd/C | 0.082 mmol, 0.089 g | [Pd] | Pd
product | 6-methyl-5-((2-(4-(4-methylpiperazin-1-yl)phenyl)pyridin-4-yl)oxy)pyridin-2-amine | 247 mg, 80% | CC1=C(C=CC(=N1)N)OC1=CC(=NC=C1)C1=CC=C(C=C1)N1CCN(CC1)C | C22H25N5O
